** sch_path: /foss/designs/MicroUNT/xschem/designs/counter4b/counter4b.sch
**.subckt counter4b
X1 CE Q1 gnd V X and_gate
X2 net1 clk V gnd Q1 clr ffdr
X3 CE Q1 net1 V gnd xor_gate
X4 X Q2 gnd V net3 and_gate
X5 net2 clk V gnd Q2 clr ffdr
X7 net3 Q3 gnd V net5 and_gate
X8 net4 clk V gnd Q3 clr ffdr
X11 net6 clk V gnd Q4 clr ffdr
V1 V GND 1.8
V2 CE GND PULSE(1.8 0 {0*period} 10ps 10ps {period/2} {period} 1)
V3 clr GND PULSE( 0 1.8 {0*period} 10ps 10ps {period/2} {period} 1)
V4 clk GND PULSE(0 1.8 {0*period} 10ps 10ps {period/2} {period})
X6 X Q2 net2 V gnd xor_gate
X9 net3 Q3 net4 V gnd xor_gate
X10 net5 Q4 net6 V gnd xor_gate
**** begin user architecture code



.param period=100n
.param span=4
.param stoptime={18*period}
.tran {0.001*period} {stoptime}
.control
run
plot {Q1 + 2} {Q2 + 4} {Q3 + 6} {Q4 +8} {CE + 10} {clk + 12} {clr + 14}
plot x
.endc


.lib /foss/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice.tt.red tt


**** end user architecture code
**.ends

* expanding   symbol:  and_gate.sym # of pins=5
** sym_path: /foss/designs/MicroUNT/xschem/designs/counter4b/and_gate.sym
** sch_path: /foss/designs/MicroUNT/xschem/designs/counter4b/and_gate.sch
.subckt and_gate A B gnd V out
*.iopin A
*.iopin out
*.iopin gnd
*.iopin V
*.iopin B
XM1 gnd A net2 gnd sky130_fd_pr__nfet_01v8 L=0.15 W=1.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 net1 A V V sky130_fd_pr__pfet_01v8 L=0.15 W=1.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 net1 B net2 gnd sky130_fd_pr__nfet_01v8 L=0.15 W=1.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 net1 B V V sky130_fd_pr__pfet_01v8 L=0.15 W=1.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
X1 V gnd net1 out inv_gate
.ends


* expanding   symbol:  ffdr.sym # of pins=6
** sym_path: /foss/designs/MicroUNT/xschem/designs/counter4b/ffdr.sym
** sch_path: /foss/designs/MicroUNT/xschem/designs/counter4b/ffdr.sch
.subckt ffdr D clk V GND Q R
*.iopin R
*.iopin clk
*.iopin Q
*.iopin D
*.iopin V
*.iopin GND
X2 D V GND net2 clk nclk tgate
X3 Q R net4 V GND nor_gate
X1 V GND net5 net1 inv_gate
X4 net5 V GND net4 nclk clk tgate
X5 net2 V GND net1 nclk clk tgate
X6 net4 V GND net3 clk nclk tgate
X7 V GND clk nclk inv_gate
X8 net5 R net2 V GND nor_gate
X9 V GND Q net3 inv_gate
.ends


* expanding   symbol:  xor_gate.sym # of pins=5
** sym_path: /foss/designs/MicroUNT/xschem/designs/counter4b/xor_gate.sym
** sch_path: /foss/designs/MicroUNT/xschem/designs/counter4b/xor_gate.sch
.subckt xor_gate A B out V gnd
*.iopin A
*.iopin out
*.iopin gnd
*.iopin V
*.iopin B
XM1 out B net3 gnd sky130_fd_pr__nfet_01v8 L=0.15 W=1.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 net1 A V V sky130_fd_pr__pfet_01v8 L=0.15 W=1.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 gnd A net3 gnd sky130_fd_pr__nfet_01v8 L=0.15 W=1.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 out nB net1 V sky130_fd_pr__pfet_01v8 L=0.15 W=1.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 net1 B V V sky130_fd_pr__pfet_01v8 L=0.15 W=1.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM6 out nA net1 V sky130_fd_pr__pfet_01v8 L=0.15 W=1.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM7 out nA net2 gnd sky130_fd_pr__nfet_01v8 L=0.15 W=1.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM8 gnd nB net2 gnd sky130_fd_pr__nfet_01v8 L=0.15 W=1.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM9 nA A V V sky130_fd_pr__pfet_01v8 L=0.15 W=1.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM10 nA A gnd gnd sky130_fd_pr__nfet_01v8 L=0.15 W=0.75 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM11 nB B V V sky130_fd_pr__pfet_01v8 L=0.15 W=1.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM12 nB B gnd gnd sky130_fd_pr__nfet_01v8 L=0.15 W=0.75 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  inv_gate.sym # of pins=4
** sym_path: /foss/designs/MicroUNT/xschem/designs/counter4b/inv_gate.sym
** sch_path: /foss/designs/MicroUNT/xschem/designs/counter4b/inv_gate.sch
.subckt inv_gate V gnd in out
*.iopin in
*.iopin out
*.iopin gnd
*.iopin V
XM1 out in gnd gnd sky130_fd_pr__nfet_01v8 L=0.15 W=0.75 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 out in V V sky130_fd_pr__pfet_01v8 L=0.15 W=1.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  tgate.sym # of pins=6
** sym_path: /foss/designs/MicroUNT/xschem/designs/counter4b/tgate.sym
** sch_path: /foss/designs/MicroUNT/xschem/designs/counter4b/tgate.sch
.subckt tgate A V GND B nctrl ctrl
*.iopin ctrl
*.iopin A
*.iopin B
*.iopin nctrl
*.iopin GND
*.iopin V
XM1 A ctrl B GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.75 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 B nctrl A V sky130_fd_pr__pfet_01v8 L=0.15 W=1.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  nor_gate.sym # of pins=5
** sym_path: /foss/designs/MicroUNT/xschem/designs/counter4b/nor_gate.sym
** sch_path: /foss/designs/MicroUNT/xschem/designs/counter4b/nor_gate.sch
.subckt nor_gate out B A V gnd
*.iopin A
*.iopin out
*.iopin gnd
*.iopin V
*.iopin B
XM1 out A gnd gnd sky130_fd_pr__nfet_01v8 L=0.15 W=0.75 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 net1 A V V sky130_fd_pr__pfet_01v8 L=0.15 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 out B gnd gnd sky130_fd_pr__nfet_01v8 L=0.15 W=0.75 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 out B net1 V sky130_fd_pr__pfet_01v8 L=0.15 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends

.GLOBAL GND
.end
